US06838574B1
Potassium carbonate (583 mg, 4.22 mmol) was added to an ethanol solution (10 ml) of ethyl 3-[(trimethylsilyl)ethynyl]benzoate (1.04 g, 4.22 mmol), and stirred at room temperature for 2 h. The mixture was concentrated, and the residue was dissolved in ethyl acetate. The organic layer was washed with water and then brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography (eluent: hexane/ethyl acetate=30/1) to give ethyl 3-ethynylbenzoate (96%).

reactant | Potassium carbonate | 4.22 mmol, 583 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-[(trimethylsilyl)ethynyl]benzoate | 4.22 mmol, 1.04 g | C[Si](C)(C)C#CC=1C=C(C(=O)OCC)C=CC1 | C14H18O2Si
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 3-ethynylbenzoate | 96% | C(#C)C=1C=C(C(=O)OCC)C=CC1 | C11H10O2
